US09029504B2
Sodium hydride (60%, 0.98 g, 24.5 mmol) washed with hexane was suspended in toluene (16 ml), 1-docosanol (4.00 g, 12.2 mmol) was added, 1,12-dibromododecane (8.04 g, 24.5 mmol) was added, and the mixture was stirred at 85° C. for 2 days. The reaction mixture was cooled to room temperature, 1N hydrochloric acid (30 ml) was added dropwise thereto in a water bath to quench the reaction. The mixture was extracted with chloroform (100 ml), and washed 3 times with 1N hydrochloric acid (30 ml), 3 times with 5% aqueous sodium hydrogen carbonate solution (30 ml), and once with 20% aqueous sodium chloride solution (30 ml). The organic layer was dried over sodium sulfate, and the solvent of the filtrate was evaporated. The residue was isolated and purified by silica gel column chromatography and precipitated with methanol (70 ml) to give 12-docosyloxy-dodecyl bromide (yield 78%).

reactant | Sodium hydride | 24.5 mmol, 0.98 g | [H-].[Na+]
reactant | 1-docosanol | 12.2 mmol, 4.00 g | C(CCCCCCCCCCCCCCCCCCCCC)O | C22H46O
reactant | 1,12-dibromododecane | 24.5 mmol, 8.04 g | BrCCCCCCCCCCCCBr | C12H24Br2
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
product | 12-docosyloxy-dodecyl bromide | yield 78% | C(CCCCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCBr | C34H69BrO
